US07902252B2
4.42. Synthesis of 6-(3-methoxybenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (129)
The title compound was synthesized from methyl 6-(3-methoxybenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (127 mg, 0.45 mmol) and lithium hydroxide (188 mg, 4.50 mmol in 1 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (2 mL) was used. The resulting product was purified by chromatography, eluting with heptane-EtOAc, gradient 0 to 50% EtOAc. 80 mg. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.10-2.21 (m, 1H) 2.53-2.76 (m, 4H) 2.91-2.99 (m, 1H) 3.34-3.44 (m, 1H) 3.82 (s, 3H) 6.72-6.77 (m, 2H) 6.78-6.86 (m, 2H) 7.24-7.31 (m, 2H) 8.28 (br. s., 1H). LCMS m/e 272 (M+H). Purity>99% (HPLC).

reactant | methyl 6-(3-methoxybenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.45 mmol, 127 mg | COC=1C=C(CC2CCC3=C2NC(=C3)C(=O)OC)C=CC1 | C17H19NO3
reactant | lithium hydroxide | 4.50 mmol, 1 mL, 188 mg | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 6-(3-methoxybenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | COC=1C=C(CC2CCC3=C2NC(=C3)C(=O)O)C=CC1 | C16H17NO3
